US07163940B2
A solution of N-butyl-2-(4-fluorophenyl)-3-[2-(methylsulfinyl)-4-pyrimidinyl]pyrazolo[1,5-α]pyridin-7-amine (50 mg, 0.12 mmol) and 3-amino-1-propanol (0.45 mL, 5.9 mmol) in 2 mL tetrahydrofuran was heated to reflux for 4 hours, then the mixture was cooled to room temperature and concentrated. Flash column chromatography eluting with a gradient of 0% to 100% ethyl acetate in hexanes afforded 3-({4-[7-(butylamino)-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinyl}amino)-1-propanol (46.3 mg, 90%) as a yellow foam. 1H NMR (CDCl3): δ 7.97 (d, 1H), 7.67–7.61 (m, 3H), 7.35 (t, 1H), 7.16 (t, 2H), 6.34 (d, 1H), 6.04 (m, 2H), 3.67–3.60 (m, 4H), 3.39 (q, 2H), 1.79–1.45 (m, 6H), 1.00 (t, 3H); 19F NMR (CDCl3): δ −113.10; MS m/z 435 (M+1).

reactant | N-butyl-2-(4-fluorophenyl)-3-[2-(methylsulfinyl)-4-pyrimidinyl]pyrazolo[1,5-α]pyridin-7-amine | 0.12 mmol, 50 mg | C(CCC)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)S(=O)C)C2=CC=C(C=C2)F | C22H22FN5OS
reactant | 3-amino-1-propanol | 5.9 mmol, 0.45 mL | NCCCO | C3H9NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-({4-[7-(butylamino)-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinyl}amino)-1-propanol | 46.3 mg, 90% | C(CCC)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NCCCO)C2=CC=C(C=C2)F | C24H27FN6O
